US05250517
0.65 g of (S)-α-amino-N-[(1S,2S,4RS)-2-hydroxy-1-isobutyl-4-isopropyl-5-hexenyl]imidazole-4-propionamide in 20 ml of acetonitrile were added together with 0.36 ml of ethyldiisopropylamine to a solution of 0.45 g of 2-benzyl-3-phenylpropionic acid (which was prepared according to the method described in J. Am. Chem. Soc. 71 1863 (1949)) and 0.8 g of BOP in 30 ml of acetonitrile and the mixture was stirred at room temperature for 20 hours. Subsequently, the reaction mixture was evaporated under reduced pressure, the residue was dissolved in 50 ml of ethyl acetate and the organic solution was washed twice with 100 ml of water each time, dried over sodium sulfate and evaporated. The residue Was separated by flash chromatography on 100 g of silica gel with a 250:15 mixture of methylene chloride and methanol as the eluting agent, to obtain there was obtained 0.17 g of (S)-α-(2,2-dibenzylacetamido)-N-[(1S,2S,4S)-2 -hydroxy-1-isobutyl-4-isopropyl-5-hexenyl]imidazole-4-propionamide as a white powder, melting point 120°. This compound corresponds to the less polar isomer and has a Rf value of 0.14.

reactant | (S)-α-amino-N-[(1S,2S,4RS)-2-hydroxy-1-isobutyl-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.65 g | N[C@H](C(=O)N[C@H]([C@H](CC(C=C)C(C)C)O)CC(C)C)CC=1N=CNC1 | C19H34N4O2
reactant | ethyldiisopropylamine | 0.36 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-benzyl-3-phenylpropionic acid | 0.45 g | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O2
reactant | BOP | 0.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (S)-α-(2,2-dibenzylacetamido)-N-[(1S,2S,4S)-2 -hydroxy-1-isobutyl-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.17 g | C(C1=CC=CC=C1)C(C(=O)N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC(C)C)CC=1N=CNC1)CC1=CC=CC=C1 | C35H48N4O3
